US09290500B2
To a vial charged with (s.e.)-((3aR,4R,6R,6aS)-2,2-dimethyl-6-{[2-(1-naphthyl)pyrazolo[1,5-a]pyrimidin-7-yl]amino}tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methanol (1.76 g, 4.09 mmol) in N,N-dimethylformamide (7.20 mL) is added chlorosulfonamide (1.42 g, 12.3 mmol; obtained by the method described in J. Am. Chem. Soc. 2005, 127, 15391). After 1 hr, the reaction is quenched with methanol (5 mL). 6.0 M hydrochloric acid in water (3.41 mL, 20.4 mmol) is added and the mixture is stirred for 1 hr. Solvent is removed in vacuo and the crude material is purified by preparative HPLC to provide (s.e.)-((1R,2R,3S,4R)-2,3-dihydroxy-4-{[2-(1-naphthyl)pyrazolo[1,5-a]pyrimidin-7-yl]amino}cyclopentyl)methyl sulfamate. LCMS: (AA) M+1 470; 1H NMR (400 MHz, MeOD) δ 8.48-8.40 (m, 1H), 8.19 (d, J=5.5 Hz, 1H), 7.99-7.90 (m, 2H), 7.81-7.75 (m, 1H), 7.60-7.47 (m, 3H), 6.69 (s, 1H), 6.37 (d, J=5.6 Hz, 1H), 4.24-4.06 (m, 3H), 4.04-3.99 (m, 1H), 3.96-3.89 (m, 1H), 2.55-2.45 (m, 1H), 2.45-2.35 (m, 1H), 1.60-1.48 (m, 1H).

reactant | ((3aR,4R,6R,6aS)-2,2-dimethyl-6-{[2-(1-naphthyl)pyrazolo[1,5-a]pyrimidin-7-yl]amino}tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methanol | 4.09 mmol, 1.76 g | CC1(O[C@H]2[C@@H](O1)[C@@H](C[C@@H]2CO)NC2=CC=NC=1N2N=C(C1)C1=CC=CC2=CC=CC=C12)C | C25H26N4O3
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
reactant | hydrochloric acid | 6.0 M | Cl | ClH
reactant | water | 20.4 mmol, 3.41 mL | O | H2O
solvent | N,N-dimethylformamide | 7.20 mL | CN(C=O)C | C3H7NO
product | ((1R,2R,3S,4R)-2,3-dihydroxy-4-{[2-(1-naphthyl)pyrazolo[1,5-a]pyrimidin-7-yl]amino}cyclopentyl)methyl sulfamate | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)NC1=CC=NC=2N1N=C(C2)C2=CC=CC1=CC=CC=C21)O)O)(=O)=O | C22H23N5O5S
